US05142056
A. Methyl 3-(4-Morpholinyl)propanoate
A solution of 4.9 ml (56 mmol) of morpholine in 50 ml of dichloromethane was treated dropwise with 5.0 ml (56 mmol) of methyl acrylate. The resulting solution was allowed to stand at ambient temperature for 3 days, after which it was concentrated in vacuo to an oil. Chromatography on silica gel using 0.5% methanol/2% isopropylamine in chloroform provided 9.54 g (99%) of the desired compound as a colorless liquid.

reactant | morpholine | 56 mmol, 4.9 ml | N1CCOCC1 | C4H9NO
reactant | methyl acrylate | 56 mmol, 5.0 ml | C(C=C)(=O)OC | C4H6O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl 3-(4-Morpholinyl)propanoate | 9.54 g, 99% | N1(CCOCC1)CCC(=O)OC | C8H15NO3
